US08426447B2
Combined (R)-3-bromo-7-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (9.15 g, 21.88 mmol), tetrakis(triphenylphosphine)palladium (2.53 g, 2.188 mmol) and 3-pyridylboronic acid (6.72 g, 54.7 mmol). Added THF (146 mL, 21.88 mmol) followed by potassium carbonate (1.5 M) (58.3 mL, 88 mmol). Flushed reaction tube with argon, sealed and heated at 110° C. for 2.5 hours. The reaction was allowed to cool to room temperature before being poured into a separatory funnel containing ethyl acetate (500 mL). Water (1000 mL) was added and, the layers were separated and the aqueous layer was extracted with ethyl acetate (3×500 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown foam. This foam was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (330 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide (R)-7-(neopentyloxy)-3-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a light yellow solid.

reactant | (R)-3-bromo-7-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 21.88 mmol, 9.15 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21N=C(OC1)N)OCC(C)(C)C | C19H20BrN3O3
reactant | 3-pyridylboronic acid | 54.7 mmol, 6.72 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | THF | 21.88 mmol, 146 mL | C1CCOC1 | C4H8O
reactant | potassium carbonate | 88 mmol, 1.5 M, 58.3 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 2.188 mmol, 2.53 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 1000 mL | O | H2O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | (R)-7-(neopentyloxy)-3-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | C(C(C)(C)C)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1 | C24H24N4O3
